US06737383B1
Step A: Preparation of N′-Hydroxy-N-(1-methylethyl)-N-phenylurea
A solution, of 50% aqueous hydroxylamine (16.8 g, 0.25 mol) was added dropwise to a solution of (1-methylethyl)phenylcarbamic chloride (20.0 g, 0.1 mol) in 200 mL of THF in an ice bath so that the reaction temperature was kept below 30° C. Precipitate began to form halfway through the addition. The resulting slurry was stirred overnight. The mixture was filtered, and the solids collected were first washed with water and then with hexane/ether. After air-drying, 14.56 g of the title compound was obtained. Its structure was confirmed by an analysis of the NMR spectra. The filtrate was stripped down to afford a residue which was washed sequentially with 1N HCl, water and hexane/ether to yield a second crop of the title compound (5.38 g) melting at 165-166° C. The combined yield was 100%.

reactant | hydroxylamine | 0.25 mol, 16.8 g | NO | H3NO
reactant | (1-methylethyl)phenylcarbamic chloride | 0.1 mol, 20.0 g | CC(C)N(C(=O)Cl)C1=CC=CC=C1 | C10H12ClNO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N′-Hydroxy-N-(1-methylethyl)-N-phenylurea | 14.56 g, yield was 100% | ONC(N(C1=CC=CC=C1)C(C)C)=O | C10H14N2O2
